* D:\_DOCUMENTS\Embedded Systems\EmbeddedSystemsProject\CircuitDesign\Draft2.asc
V1 N001 0 SINE(0 1.6 2000)
C1 N002 0 1µ
C2 0 N003 1µ
R2 N003 N002 10
C3 N004 0 1µ
R4 0 N004 80
R1 N004 N003 10
R3 N002 N001 10
.tran 0.1
.backanno
.end
