* D:\_DOCUMENTS\Embedded Systems\EmbeddedSystemsProject\data analysis\cascaded_RLC.asc
V1 N001 0 SINE(0 1 1000 0 0 0)
C1 N002 0 30µ
L2 N003 N002 0.86m
C2 N003 0 1.2µ
R3 N004 0 180
R1 N002 N001 10
L1 N004 N003 0.02
.tran 0.1
.backanno
.end
